US05221676
5-Amino-7-[3-[4-(aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
Starting from 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.95 g, 3.2 mmol) and 1,1 dimethylethyl[[4-(3-pyrrolidinyl)phenyl]methyl]carbamate, a procedure analogous to that given in Example 6 provided the title compound (0.75 g) as a yellow solid, mp 225°-227° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.2 mmol, 0.95 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 1,1 dimethylethyl[[4-(3-pyrrolidinyl)phenyl]methyl]carbamate | CC(C)(C)N(C([O-])=O)CC1=CC=C(C=C1)C1CNCC1
product | 5-Amino-7-[3-[4-(aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.75 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)C1=CC=C(C=C1)CN)F)C1CC1)C(=O)O)=O | C24H24F2N4O3
